US08202863B2
To a solution of 2-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyrimidine-5-carboxylic acid (50 mg, 0.24 mmol) in DCM (10 mL) is added 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide (50 mg, 0.26 mmol) and N-hydroxybenzotriazole (35 mg, 0.26 mmol) at room temperature. The mixture is stirred for 10 min, and tetrahydro-pyran-4-ylamine (27 mg, 0.26 mmol) is added. The mixture is stirred overnight, washed with 2N HCl (1×5 mL), saturated NaHCO3, (1×5 mL), water (lx 5 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by column chromatography eluting with 5% MeOH in DCM to afford 2-(5-methyl-[1,2,4]oxadiazole-3-yl)-pyrimidine-5-carboxylic acid (tetrahydro-pyran-4-yl)-amide (33 mg) as a solid. MS: 290 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.70 (m, 2H), 2.04 (m, 2H), 2.76 (s, 3H), 3.59 (m, 2H), 4.06 (m, 2H), 4.28 (m, 1H), 9.26 (s, 2H); IC50=513.5 nM.

reactant | 2-(5-methyl-[1,2,4]oxadiazol-3-yl)-pyrimidine-5-carboxylic acid | 0.24 mmol, 50 mg | CC1=NC(=NO1)C1=NC=C(C=N1)C(=O)O | C8H6N4O3
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide | 0.26 mmol, 50 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 0.26 mmol, 35 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tetrahydro-pyran-4-ylamine | 0.26 mmol, 27 mg | O1CCC(CC1)N | C5H11NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-methyl-[1,2,4]oxadiazole-3-yl)-pyrimidine-5-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 33 mg | O1CCC(CC1)NC(=O)C=1C=NC(=NC1)C1=NOC(=N1)C | C13H15N5O3
